US08664258B2
Preparation of N-(4-(2-nitro-2-methylpropoxy)-3-(4-chloro-2-methyl-2H-pyrazol-3-yl)phenyl)-3-(trifluoromethyl)benzamide
Cesium carbonate (815 mg, 2.50 mmol) was added to a solution of N-(3-(4-chloro-2-methyl-2H-pyrazol-3-yl)-4-hydroxyphenyl)-3-(trifluoromethyl)benzamide (396 mg, 1.00 mmol) and 2-methyl-2-nitropropyl methanesulfonate (276 mg, 1.40 mmol) in DMA (2.0 mL) and the mixture was stirred at 160° C. After 1 hr, the mixture was allowed to cool to room temperature and poured into water, and the resulting suspension was extracted with dichloromethane. The extract was dried with sodium sulfate, filtered, and evaporated to dryness. The crude product was purified by flash chromatography (ethyl acetate-hexanes 1:2) to afford the product (338 mg, 68%) as a yellow oil. LCMS m/z (%)=499.5 (M+H 37Cl 31.5%), 497.4 (M+H 35Cl 100.0%). 1H NMR (400 MHz, CDCl3) δ ppm 1.51 (s, 3 H), 1.57 (s, 3 H), 3.64 (s, 3 H), 4.01 (d, J=9.85 Hz, 1 H), 4.49 (d, J=9.85 Hz, 1 H), 7.08 (d, J=8.84 Hz, 1 H), 7.49 (d, J=2.53 Hz, 1 H), 7.51 (s, 1 H), 7.65 (t, J=7.71 Hz, 1 H), 7.80-7.90 (m, 3 H), 8.07 (d, J=7.83 Hz, 1 H), 8.13 (s, 1 H).

reactant | Cesium carbonate | 2.50 mmol, 815 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-(3-(4-chloro-2-methyl-2H-pyrazol-3-yl)-4-hydroxyphenyl)-3-(trifluoromethyl)benzamide | 1.00 mmol, 396 mg | ClC1=C(N(N=C1)C)C=1C=C(C=CC1O)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C18H13ClF3N3O2
reactant | 2-methyl-2-nitropropyl methanesulfonate | 1.40 mmol, 276 mg | CS(=O)(=O)OCC(C)([N+](=O)[O-])C | C5H11NO5S
reactant | water | O | H2O
solvent | DMA | 2.0 mL | CC(=O)N(C)C | C4H9NO
product | N-(4-(2-nitro-2-methylpropoxy)-3-(4-chloro-2-methyl-2H-pyrazol-3-yl)phenyl)-3-(trifluoromethyl)benzamide | 338 mg, 68% | [N+](=O)([O-])C(COC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)C=1N(N=CC1Cl)C)(C)C | C22H20ClF3N4O4
